US04757081
To 300 ml of a solution of 18.7 g (0.051 mole) of 2-(4-methoxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone in methylene chloride, 25.0 g (0.010 mole) of boron tribromide was added dropwise. After stirring the resultant mixture at room temperature for 15 hours, the reaction mixture was poured into water, followed by neutralization with sodium hydrogen carbonate. Deposited crystals were collected by filtration and washed with aceton, thereby affording 16.9 g of 2-(4-hydroxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone having a melting point of not lower than 300° C.

reactant | 2-(4-methoxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone | 0.051 mole, 18.7 g | COC1=CC=C(C=C1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NO2
reactant | boron tribromide | 0.010 mole, 25.0 g | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-hydroxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone | 16.9 g | OC1=CC=C(C=C1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19NO2
